US06846835B2
Synthesis of 4-(((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoyl)oxy)-1,1-diethylpiperidinium iodide
A solution formed by dissolving 1-ethylpiperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate in 1 ml of ethyl iodide at room temperature was stirred for 12 hours at 70° C. Excessive reagent was distilled off under reduced pressure, and the residue was purified on preparative thin layer chromatography (Aluminiumoxide™60F254, Art5713 (Merck), chloroform/methanol=3/1) to provide 14 mg of the title compound as a colorless solid.

reactant | 1-ethylpiperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)CC)(C1=CC=C(C=C1)Cl)O)F | C20H26ClF2NO3
reactant | ethyl iodide | 1 ml | C(C)I | C2H5I
product | 4-(((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoyl)oxy)-1,1-diethylpiperidinium iodide | 14 mg | [I-].FC1(C[C@@H](CC1)[C@](C(=O)OC1CC[N+](CC1)(CC)CC)(C1=CC=C(C=C1)Cl)O)F | InChI=1S/C22H31ClF2NO3.HI/c1-3-26(4-2)13-10-19(11-14-26)29-20(27)22(28,16-5-7-18(23)8-6-16)17-9-12-21(24,25)15-17;/h5-8,17,19,28H,3-4,9-15H2,1-2H3;1H/q+1;/p-1/t17-,22+;/m1./s1
